US08278445B2
Under the dried nitrogen atmosphere, to a reaction flask were added 540 mL of dried N,N-dimethylformamide, 26.2 g of 2-hydroxybenzonitrile, 29.8 g of 4,6-dichloropyrimidine and 27.6 g of anhydrous potassium carbonate, and this mixture is heated under stirring to 100. degree. C. to be followed by reacting for 3 hrs. Then, 34.9 g of methyl 2-hydroxyphenylacetate and 13.8 g of anhydrous potassium carbonate were added and the temperature was increased to 120. degree. C. The reaction went on under stirring for 5 hrs. Afterwards, N,N-dimethylformamide was recovered by concentrating the reaction mixture under reduced pressure, 150 mL of toluene and 100 mL of water were added to the residue to dissolve the solid under stirring. The solution was left to stand still for separation of an organic phase and an aqueous phase. The organic phase was concentrated to obtain .a solid crude product of methyl 2-(2-(6-(2-cyanophenoxy)pyrimidine-4-oxy)phenyl)acetate. After purification, 54 g of amber solid was obtained from the crude product with a yield of 75%.

reactant | 2-hydroxybenzonitrile | 26.2 g | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | 4,6-dichloropyrimidine | 29.8 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-hydroxyphenylacetate | 34.9 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 540 mL | CN(C=O)C | C3H7NO
product | methyl 2-(2-(6-(2-cyanophenoxy)pyrimidine-4-oxy)phenyl)acetate | C(#N)C1=C(OC2=CC(=NC=N2)OC2=C(C=CC=C2)CC(=O)OC)C=CC=C1 | C20H15N3O4
